US07087605B2
7-Cyclopentyl-5-ethyl-2-(4-methyl-1-naphthyl)imidazo[5,1-f][1,2,4]triazin-4(3H)-one
In analogy to the procedure for Example 1, 797 mg (2.04 mmol) crude N-{1-[3-(4-methyl-1-naphthyl)-5-oxo-4,5-dihydro-1,2,4-triazin-6-yl]propyl}cyclopentanecarboxamide, 469 mg (3.06 mmol) phosphoric trichloride are stirred at reflux for 3 hours, proportionate amounts of the solvents are used.

reactant | N-{1-[3-(4-methyl-1-naphthyl)-5-oxo-4,5-dihydro-1,2,4-triazin-6-yl]propyl}cyclopentanecarboxamide | 2.04 mmol, 797 mg | CC1=CC=C(C2=CC=CC=C12)C1=NN=C(C(N1)=O)C(CC)NC(=O)C1CCCC1 | C23H26N4O2
reactant | phosphoric trichloride | 3.06 mmol, 469 mg | P(=O)(Cl)(Cl)Cl | Cl3OP
product | 7-Cyclopentyl-5-ethyl-2-(4-methyl-1-naphthyl)imidazo[5,1-f][1,2,4]triazin-4(3H)-one | C1(CCCC1)C1=NC(=C2C(NC(=NN21)C2=CC=C(C1=CC=CC=C21)C)=O)CC | C23H24N4O
